US08017347B2
Phosphoric acid 2-bromo-ethyl ester diethyl ester.
A solution of 2-bromo ethanol (1.42 mL, 20 mmol) and dry pyridine (3.23 mL, 40 mmol) in dry dichloromethane (25 mL) was cooled to 0° C. Diethyl chlorophosphate (3.36 mL, 23 mmol) was added dropwise and the reaction mixture was stirred at room temperature for 24 h. Diethyl ether (40 mL) and 1 N HCl (40 mL) were added and the organic layer was separated and washed consecutively with 1 N HCl and saturated NaHCO3 and dried over MgSO4. After evaporation of the solvents the residue was purified by column chromatography (silica gel, ethyl acetate/pentane 1:1) to give the product (4.85 g, 18.6 mmol, 93%) as light yellowish oil. 1H NMR (CDCl3, 400 MHz) δ=1.34 (dt, 6H, 2×CH3, 3J(H,H)=7.2 Hz, 4J(H,P)=1.2 Hz); 3.52 (t, 2H, CH2Br, 3J=6 Hz); 4.13 (dq, 4H, 2×CH2CH3, 3J(H,H)=7.2 Hz, 3J(H,P)=7.2 Hz); 4.28 (dt, 4H, 2×OCH2CH2Br, 3J(H,H)=6.4 Hz, 3J(H,P)=8.4 Hz). 13C NMR (CDCl3, 100.5 MHz) δ=16.0 (d, 2×CH3, 3J=6.8 Hz); 29.4 (d, CH2Br, 2J=7.6 Hz); 64.0 (d, OCH2, 2J=5.3 Hz); 66.5 (d, OCH2, 2J=5.3 Hz).

reactant | 2-bromo ethanol | 20 mmol, 1.42 mL | BrCCO | C2H5BrO
reactant | pyridine | 40 mmol, 3.23 mL | N1=CC=CC=C1 | C5H5N
reactant | Diethyl chlorophosphate | 23 mmol, 3.36 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | HCl | 1 N, 40 mL | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | Diethyl ether | 40 mL | C(C)OCC | C4H10O
product | Phosphoric acid 2-bromo-ethyl ester diethyl ester | 18.6 mmol, 4.85 g, 93% | C(C)OP(OCCBr)(OCC)=O | C6H14BrO4P
